* File: inversorp4.pex.netlist
* Created: Tue Jul  4 17:45:47 2023
* Program "Calibre xRC"
* Version "v2006.2_16.16"
* 
.include "inversorp4.pex.netlist.pex"
.subckt INVERSORP4  OUT IN VSS VDD
* 
* VDD	VDD
* VSS	VSS
* IN	IN
* OUT	OUT
mM0 N_VSS_M0_d N_IN_M0_g N_OUT_M0_s N_VSS_M0_b NMOS4 L=3.5e-07 W=4e-06
+ AD=3.8e-12 AS=3.4e-12 PD=5.9e-06 PS=5.7e-06 NRD=0.10625 NRS=0.10625
mM1 N_VDD_M1_d N_IN_M1_g N_OUT_M1_s N_VDD_M1_b PMOS4 L=3.5e-07 W=1.175e-05
+ AD=1.11625e-11 AS=9.9875e-12 PD=1.365e-05 PS=1.345e-05 NRD=0.0361702
+ NRS=0.0361702
*
.include "inversorp4.pex.netlist.INVERSORP4.pxi"
*
.ends
*
*
